US07691877B2
(2-Amino-6-bromo-3-nitro-pyridin-4-yl)-(3-cyano-benzyl)-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 68 using (3-cyano-benzyl)-(2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester (2.32 g), aqueous ammonia (10.2 ml), and 2-methyl-THF (10.2 ml). This gave the product (1.51 g) as a yellow solid.

reactant | (3-cyano-benzyl)-(2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 2.32 g | C(C)OC(N(C1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])CC1=CC(=CC=C1)C#N)=O | C16H12Br2N4O4
reactant | ammonia | 10.2 ml | N | H3N
product | (2-Amino-6-bromo-3-nitro-pyridin-4-yl)-(3-cyano-benzyl)-carbamic acid ethyl ester | C(C)OC(N(CC1=CC(=CC=C1)C#N)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C16H14BrN5O4
